USRE030241
Following the procedure described above in Example 58A but using 3,4-dihydroxyphenyl isopropylaminomethyl ketone hydrochloride instead of 3,4-dihydroxyphenyl tert.-butylaminomethyl ketone hydrochloride and phenoxyacetyl chloride instead of isovaleryl chloride, there is obtained 3-hydroxy-4-(phenoxyacetoxy)phenyl isopropylaminomethyl ketone; and by interaction of this base with methanesulfonic acid there is obtained the methanesulfonate salt. When this methanesulfonate is catalytically hydrogenated, using a procedure similar to that described above in Example 2B, there is obtained 3-hydroxy-4-(phenoxyacetoxy)-alpha-(isopropylaminomethyl)benzyl alcohol methanesulfonate.

reactant | 3,4-dihydroxyphenyl isopropylaminomethyl ketone hydrochloride | Cl.C(C)(C)NCC(=O)C1=CC(=C(C=C1)O)O
reactant | phenoxyacetyl chloride | O(C1=CC=CC=C1)CC(=O)Cl | C8H7ClO2
product | 3-hydroxy-4-(phenoxyacetoxy)phenyl isopropylaminomethyl ketone | C(C)(C)NCC(=O)C1=CC(=C(C=C1)OC(COC1=CC=CC=C1)=O)O | C19H21NO5
